US05591862
According to the method described for Example 1, (E,E)-5-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile was allowed to react with sodium azide -ammonium chloride to give 5-[4-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-1,3-butadien-1-yl]tetrazole. Recrystallization from methanol gave colorless prisms, m.p.201°-202° C.

reactant | (E,E)-5-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)/C=C/C=C/C#N | C22H18N2O2
reactant | sodium azide -ammonium chloride | [Cl-].[NH4+].[N-]=[N+]=[N-].[Na+]
product | 5-[4-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-1,3-butadien-1-yl]tetrazole | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)C=CC=CC1=NN=NN1 | C22H19N5O2
